US07910592B2
A mixture of 3-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate (12.4 mg, 0.0204 mmol), (4-fluoro-5-isopropyl-2-methoxyphenyl)boronic acid (13.0 mg, 0.0614 mmol), and tetrakis(triphenylphosphine)palladium (0) (2.8 mg, 0.00246 mmol), sodium carbonate (18.2 mg, 0.172 mmol) in benzene (1.4 mL), EtOH (0.2 mL) and water (0.6 mL) was heated at 95° C. in a sealed tube overnight. The reaction mixture was cooled to room temperature and water (10 mL) was added. The mixture was extracted with EtOAc (3×20 mL) and the combined organic extracts were dried (Na2SO4) and concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 12×160 mm, 0-20% EtOAc in hexanes gradient) and chiral HPLC (IA column, 20×250 mm, 3% i-PrOH in heptane) to afford (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[3-(4-fluoro-5-isopropyl-2-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one. Rf=0.49 (20% EtOAc/hexanes). LCMS calc.=624.2; found=624.2 (M+1)+. 1H NMR (600 MHz, CDCl3, 1:1 mixture of atropisomers): δ 7.83 (s, 1H); 7.67 (s, 1H); 7.65 (s, 1H); 7.17 (s, 0.5H); 7.06 (s, 0.5H); 7.01 (d, J=8.6 Hz, 0.5H); 6.98 (d, J=8.6 Hz, 0.5H); 6.94 (s, 0.5H); 6.91 (s, 0.5H); 6.65 (d, J=9.6 Hz, 0.5H); 6.63 (d, J=9.5 Hz, 0.5H); 5.52 (d, J=8.2 Hz, 0.5H); 5.23 (d, J=8.0 Hz, 0.5H); 4.85 (d, J=15.2 Hz, 0.5H); 4.79 (d, J=15.3 Hz, 0.5H); 3.95 (d, J=15.3 Hz, 0.5H); 3.77-3.71 (m, 4.5H); 3.22-3.14 (m, 1H); 2.84-2.77 (m, 4H); 1.86-1.80 (m, 4H); 1.27-1.21 (m, 4.5H); 1.15 (d, J=7.0 Hz, 1.5H); 0.50 (d, J=6.5 Hz, 1.5H); 0.28 (d, J=6.5 Hz, 1.5H).

reactant | 3-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate | 0.0204 mmol, 12.4 mg | FC(S(=O)(=O)OC1=CC=2CCCCC2C=C1CN1C(O[C@@H]([C@@H]1C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)(F)F | C24H20F9NO5S
reactant | (4-fluoro-5-isopropyl-2-methoxyphenyl)boronic acid | 0.0614 mmol, 13.0 mg | FC1=CC(=C(C=C1C(C)C)B(O)O)OC | C10H14BFO3
reactant | sodium carbonate | 0.172 mmol, 18.2 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | benzene | 1.4 mL | C1=CC=CC=C1 | C6H6
solvent | EtOH | 0.2 mL | CCO | C2H6O
solvent | water | 0.6 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.00246 mmol, 2.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 10 mL | O | H2O
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[3-(4-fluoro-5-isopropyl-2-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=CC=2CCCCC2C=C1C1=C(C=C(C(=C1)C(C)C)F)OC)C)(F)F | C33H32F7NO3
